Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8],3.76320734911
[H:1][C:2]([H:3])([H:4])[O:5]/[C:6]=[C:7](\[H:8])[O:10][C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-2.96356344601
[H:12].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.40587896129
[C:2]=[C:3]([O:4][C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1]>>[H:1][C:2]=[C:3]([O:4][C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.33555038519
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:3]([H:4])(=[C:11]([C:8]([C:5]([H:6])[H:7])([H:9])[H:10])[H:12])[H:15].[H:1][C:2]#[C:13][H:14],1.30450660871
[C:3]([H:4])#[C:5][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:6][H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12],0.660585337101
[H:1][O:2][C:3]#[C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.16229543718
[H:1][C:2]([H:3])[O:4][C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2][H:3].[O:4][C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],5.190297490330001
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:5]([H:6])=[C:7]([H:8])[O:9][H:10].[H:1][C:2]#[C:3][O:4],2.66873788798
[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[O:5][O:6],0.259838989501
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]=[C:3]([H:4])[H:5],0.857291199869
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[H:4],5.817375686419999
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:9].[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]=[C:10]([H:11])[H:12],4.953071223899999
[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10].[O:1]=[C:2],3.20036721682
[H:1][C:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:3](#[C:4][H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2],2.99690673797
[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11]>>[C:2]([H:3])([H:4])=[O:10].[O:1]([C:5]([H:6])[C:7]#[C:8][H:9])[H:11],0.121788285911
[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.13145224927
[H:13].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11][H:12]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.95595601476
[C:4][H:5].[O:1][O:2][C:3][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-7.25010808663
[H:1][C:2]([H:3])=[C:4]=[C:5]([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]([H:3])=[C:4][C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.52614760997
[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-5.68040430283
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[O:8],5.31719618574
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[H:5].[O:6]=[C:7][O:8][C:9]([H:10])([H:11])[H:12],-1.36857906828
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[O:10][H:11]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11],-1.7106539773500002
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8][H:9]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6].[O:7]=[C:8][H:9],2.1953579268400003
[H:1][O:2]/[C:3]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:4][H:5]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-6.06683125657
[C:6]([H:7])([H:8])=[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.96215798859
